US06395741B1
A mixture of 4,6-dichloro-5-(4-methylphenyl)pyrimidine (10.0 g), 4-(2-acetoxy-1,1-dimethylethyl)benzenesulfonamide (11.58 g), potassium carbonate (14.45 g) and dimethyl-sulfoxide (50 ml) is stirred at 75° C. (bulk temperature) for 3 hours, and thereto is further added 4-(2-acetoxy-1,1-dimethylethyl)benzenesulfonamide (0.34 g). The mixture is stirred at 70-75° C. for 1.5 hour, and the reaction mixture is cooled, and poured into a mixture of ice (100 g) and conc. hydrochloric acid (60 ml). The mixture is extracted with ethyl acetate, and the organic layer is washed, dried, and concentrated under reduced pressure. The residue is crystallized from a mixture of ethyl acetate and diisopropyl ether to give 4-(2-acetoxy-1,1-dimethylethyl)-N-{6-chloro-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (14.97 g) as colorless needles.

reactant | 4,6-dichloro-5-(4-methylphenyl)pyrimidine | 10.0 g | ClC1=NC=NC(=C1C1=CC=C(C=C1)C)Cl | C11H8Cl2N2
reactant | 4-(2-acetoxy-1,1-dimethylethyl)benzenesulfonamide | 11.58 g | C(C)(=O)OCC(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C12H17NO4S
reactant | potassium carbonate | 14.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 60 ml | Cl | ClH
catalyst | 4-(2-acetoxy-1,1-dimethylethyl)benzenesulfonamide | 0.34 g | C(C)(=O)OCC(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C12H17NO4S
solvent | dimethyl-sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-(2-acetoxy-1,1-dimethylethyl)-N-{6-chloro-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 14.97 g | C(C)(=O)OCC(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)Cl | C23H24ClN3O4S
